US08486979B2
1,3-dimethyl-5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)-1H-benzo[d]imidazol-2(3H)-one
The title compound was prepared according to Method C using 1,3-dimethyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid (Matrix) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, CD3OD) δ 3.49 (s, 3 H), 3.53 (s, 3H), 7.36 (d, J=8.3 Hz, 1 H), 7.64 (ddd, J=8.0, 5.1, 0.8 Hz, 1 H), 7.98 (d, J=1.6 Hz, 1 H), 8.08 (dd, J=8.3, 1.6 Hz, 1 H), 8.55 (dt, J=8.0, 1.9 Hz, 1 H), 8.73 (dd, J=4.8, 1.6 Hz, 1 H) 9.29 (d, J=1.2 Hz, 1 H). MS (DCI/NH3) m/z 308 (M+H)+.

reactant | 1,3-dimethyl-2-oxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid | CN1C(N(C2=C1C=CC(=C2)C(=O)O)C)=O | C10H10N2O3
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 1,3-dimethyl-5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)-1H-benzo[d]imidazol-2(3H)-one | CN1C(N(C2=C1C=CC(=C2)C2=NC(=NO2)C=2C=NC=CC2)C)=O | C16H13N5O2
